US08258144B2
A solution of tert-butyl (1-(2-chloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)methylcarbamate (418 mg, 0.647 mmol), Pd2 dba3 (60 mg, 0.065 mmol) and dppf (72 mg, 0.13 mmol) in DMF (5 mL) was degassed with Ar before being charged with Zn(CN)2 (91 mg, 0.78 mmol). The mixture was stirred at 70° C. for 18 h. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo. The residue was purified by a flash silica gel column, eluted with EtOAc/hexane (10-30%) to give tert-butyl (1-(2-chloro-5-cyano-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)methylcarbamate (180 mg).

reactant | tert-butyl (1-(2-chloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)methylcarbamate | 0.647 mmol, 418 mg | ClC=1N=C(C2=C(N1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2)N2CCC(CC2)CNC(OC(C)(C)C)=O | C24H29ClIN5O4S
reactant | Water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd2 dba3 | 0.065 mmol, 60 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 0.13 mmol, 72 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Zn(CN)2 | 0.78 mmol, 91 mg | [C-]#N.[C-]#N.[Zn+2]
product | tert-butyl (1-(2-chloro-5-cyano-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-yl)methylcarbamate | 180 mg | ClC=1N=C(C2=C(N1)N(C=C2C#N)S(=O)(=O)C2=CC=C(C)C=C2)N2CCC(CC2)CNC(OC(C)(C)C)=O | C25H29ClN6O4S
